US05254755
As another example, 2-fluoromethyl-1,1,1,3,3,4,4-heptafluoro-2-pentanol may be prepared by fluorinating commercially available 2,3-pentanedione to form 2,2,3,3-tetrafluoropentane which may then be dehydrogenated to form 3,3,4,4-tetrafluoro-1-pentene. CF3 may then be added to the 3,3,4,4-tetrafluoro-1-pentene to form 2-trifluoromethyl-1,3,3,4,4-pentafluoropentane which may then be dehydrogenated to form 2-trifluoromethyl-1,3,3,4,4-pentafluoro-1-pentene. The 2-trifluoromethyl-1,3,3,4,4-pentafluoro-1-pentene may then be reacted with sulfuric acid and then water to form 2-fluoromethyl-1,1,1,3,3,4,4-heptafluoro-2-pentanol.

reactant | 2-fluoromethyl-1,1,1,3,3,4,4-heptafluoro-2-pentanol | FCC(C(F)(F)F)(C(C(C)(F)F)(F)F)O | C6H6F8O
reactant | 2,3-pentanedione | CC(C(CC)=O)=O | C5H8O2
product | 2,2,3,3-tetrafluoropentane | FC(C)(C(CC)(F)F)F | C5H8F4
